US05981776
Process for the preparation of [3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofur-5-oyl]-morpholine
A solution of 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-5-carboxylic acid (100 mg, 0.275 mmol), 1-hydroxybenzotriazole (74 mg, 0.55 mmol) 1,3-dicyclohexylcarbodiimide (112 mg, 0.55 mmol) and morpholine (0.024 ml, 0.255 mmol) in 5 ml of THF and 2 ml of DMF is stirred at room temperature for 6 hours. 30 ml of water and 30 ml of ethyl acetate are added. After stirring and separation of the phases by settling, the aqueous phase is extracted with 2×30 ml of ethyl acetate. The organic phases are then combined and washed twice with 30 ml of water and then dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C. The product is then purified by flash chromatography on a column of silica (50% heptane/50% ethyl acetate).

reactant | 3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofuran-5-carboxylic acid | 0.275 mmol, 100 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C(=O)O)C)C | C24H28O3
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 74 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | morpholine | 0.255 mmol, 0.024 ml | N1CCOCC1 | C4H9NO
reactant | water | 30 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | [3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-3-methyl-2H-1-benzofur-5-oyl]-morpholine | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1(COC2=C1C=C(C=C2)C(=O)N2CCOCC2)C)C | C28H35NO3
